US05290934
To 3-(1-piperazinyl)-4-fluoro-5-methyl-6-nitro-N-cyclopropylaniline (1.57 g) is added diethyl ethoxymethylenemalonate (1.45 ml) and the mixture is heated at 150° C. for 25 hours. After cooling, the reaction product is purified by silica-gel column-chromatography (dichloromethane : methanol=100:1) to give diethyl [N-cyclopropyl-N-[3-(1-piperazinyl)-4-fluoro-5-methyl-6-nitrophenyl]aminomethylene]malonate (1.50 g). The product is dissolved in acetic anhydride (7.9 ml) and thereto conc. sulfuric acid (3.16 ml) is added dropwise at 50°-60° C., followed by stirring for 30 minutes. The resultant mixture is poured into ice-water, neutralized, extracted with dichloromethane and the extract is dried The solvent is distilled off under reduced pressure. Purification by silica-gel column-chromatography (dichloromethane: methanol=10:1) to give ethyl 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (26 mg).

reactant | 3-(1-piperazinyl)-4-fluoro-5-methyl-6-nitro-N-cyclopropylaniline | 1.57 g | N1(CCNCC1)C=1C=C(NC2CC2)C(=C(C1F)C)[N+](=O)[O-] | C14H19FN4O2
reactant | diethyl ethoxymethylenemalonate | 1.45 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl [N-cyclopropyl-N-[3-(1-piperazinyl)-4-fluoro-5-methyl-6-nitrophenyl]aminomethylene]malonate | 1.50 g | C1(CC1)N(C1=CC(=C(C(=C1[N+](=O)[O-])C)F)N1CCNCC1)C=C(C(=O)OCC)C(=O)OCC | C22H29FN4O6
